US08293897B2
N-(4 (7 (3 (1 hydroxycyclopropyl)propoxy)-6-methoxyquinolin-4-yloxy)-3-fluorophenyl)-N-phenylcyclopropane-1,1-dicarboxamide
The title compound was prepared according to the procedure described in Example 9 by using N-(4-(7-hydroxy-6-methoxyquinolin-4-yloxy)-3-fluorophenyl)-N-phenylcyclopropane-1,1-dicarboxamide (300 mg, 0.616 mmol), 3-(1-hydroxycyclopropyl)propyl methanesulfonate (155 mg, 0.80 mmol), and Cs2CO3 (602.5 mg, 1.848 mmol) in 3 mL of DMA. The residue was purified by a silical gel column chromatography (6:1 (v/v) EtOAc/n-hexane). The title compound was obtained as a white solid (263 mg, 73%).

reactant | N-(4-(7-hydroxy-6-methoxyquinolin-4-yloxy)-3-fluorophenyl)-N-phenylcyclopropane-1,1-dicarboxamide | 0.616 mmol, 300 mg | OC1=C(C=C2C(=CC=NC2=C1)OC1=C(C=C(C=C1)N(C(=O)C1(CC1)C(=O)N)C1=CC=CC=C1)F)OC | C27H22FN3O5
reactant | 3-(1-hydroxycyclopropyl)propyl methanesulfonate | 0.80 mmol, 155 mg | CS(=O)(=O)OCCCC1(CC1)O | C7H14O4S
reactant | Cs2CO3 | 1.848 mmol, 602.5 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMA | 3 mL | CC(=O)N(C)C | C4H9NO
product | N-(4 (7 (3 (1 hydroxycyclopropyl)propoxy)-6-methoxyquinolin-4-yloxy)-3-fluorophenyl)-N-phenylcyclopropane-1,1-dicarboxamide | OC1(CC1)CCCOC1=C(C=C2C(=CC=NC2=C1)OC1=C(C=C(C=C1)N(C(=O)C1(CC1)C(=O)N)C1=CC=CC=C1)F)OC | C33H32FN3O6
